US05939451
0.58 g (0.00266 mol) of 4,6-dichloro-2-pyrrolidin-1-yl-pyrimidine and 1.36 g (0.00539 mol) of N-(4-sulfamoyl-phenyl)-acetamide potassium salt were stirred in 10 ml of 1-methyl-2-pyrrolidone at 140° C. for 8 hours. Then, the solvent was distilled off in a high vacuum, the residue was partitioned in ethyl acetate/water and extracted. The aqueous phase was made acid with 4N HCl and extracted with ethyl acetate. Both organic phases were combined and concentrated. The residue was recrystallized from a small amount of ethanol and the mother liquor was chromatographed over silica gel with cyclohexane/ ethyl acetate 2:1 as the eluent. There was obtained a total of 0.62 g (66%) of N-[4-(6-chloro-2-pyrrolidin-1-yl-pyrimidin-4-ylsulfamoyl)-phenyl]-acetamide as whitish crystals; m.p. 229-233° C.

reactant | 4,6-dichloro-2-pyrrolidin-1-yl-pyrimidine | 0.00266 mol, 0.58 g | ClC1=NC(=NC(=C1)Cl)N1CCCC1 | C8H9Cl2N3
reactant | N-(4-sulfamoyl-phenyl)-acetamide potassium salt | 0.00539 mol, 1.36 g | [K].S(N)(=O)(=O)C1=CC=C(C=C1)NC(C)=O
solvent | 1-methyl-2-pyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | N-[4-(6-chloro-2-pyrrolidin-1-yl-pyrimidin-4-ylsulfamoyl)-phenyl]-acetamide | 0.62 g, 66% | ClC1=CC(=NC(=N1)N1CCCC1)NS(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C16H18ClN5O3S
